US06310079B1
(E)-2-(2.6-Difluorostyryl)-1-(2-pyridyl)- 1H-benzimidazole hydrochloride
To a solution of (E)-2,6-difluorocinnamic acid (331 mg, 1.8 mmol) in benzene (10 ml) was added thionyl chloride (0.5 ml) and the mixture was heated to reflux for 60 min. Volatiles were removed by evaporation to give crude (E)-2,6-difluorocinnamoyl chloride. Free base of the titled compound was prepared from N-(2-pyridyl)-o-phenylenediamine (250 mg, 1.4 mmol) and (E)-2,6-difluorocinnamoyl chloride obtained as above according to the preparation of (E)-1-(2-pyridyl)-2-styryl-1H-benzimidazole Example 1, method A). The free base was dissolved with a 10% methanol solution of hydrogen chloride (5 ml). Concentration and recrystallization from ethyl acetate/ethanol yielded the titled compound.

reactant | N-(2-pyridyl)-o-phenylenediamine | 1.4 mmol, 250 mg | N1=C(C=CC=C1)NC1=C(C=CC=C1)N | C11H11N3
reactant | (E)-2,6-difluorocinnamoyl chloride | FC1=C(/C=C/C(=O)Cl)C(=CC=C1)F | C9H5ClF2O
reactant | (E)-1-(2-pyridyl)-2-styryl-1H-benzimidazole | N1=C(C=CC=C1)N1C(=NC2=C1C=CC=C2)\C=C\C2=CC=CC=C2 | C20H15N3
reactant | hydrogen chloride | 5 ml | Cl | ClH
solvent | methanol | CO | CH4O
product | (E)-2-(2.6-Difluorostyryl)-1-(2-pyridyl)- 1H-benzimidazole hydrochloride | Cl.FC1=C(/C=C/C2=NC3=C(N2C2=NC=CC=C2)C=CC=C3)C(=CC=C1)F | InChI=1S/C20H13F2N3.ClH/c21-15-6-5-7-16(22)14(15)11-12-20-24-17-8-1-2-9-18(17)25(20)19-10-3-4-13-23-19;/h1-13H;1H/b12-11+;
